US04760163
Ammonia is introduced with stirring into a solution of 7.5 g of ethyl 3-oxo-2,4,4,4-tetrafluorobutyrate in 20 ml of toluene at 75° C. up to saturation. Then the reaction mixture is heated using a water separator for 5 hours, during which ethyl 3-amino-2,4,4,4-tetrafluorocrotonate is formed as an intermediate.

reactant | Ammonia | N | H3N
reactant | ethyl 3-oxo-2,4,4,4-tetrafluorobutyrate | 7.5 g | O=C(C(C(=O)OCC)F)C(F)(F)F | C6H6F4O3
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-amino-2,4,4,4-tetrafluorocrotonate | N\C(=C(/C(=O)OCC)\F)\C(F)(F)F | C6H7F4NO2
